* Z:\mnt\design.r\spice\examples\1185.asc
XU1 0 N002 IN OUT N001 LT1185
R1 0 N001 4.3K
R2 0 N002 2.37K
R3 N002 OUT 2.67K
V1 0 IN 7.5
I1 0 OUT pulse(.95 1.05 2u 10n 10n 8u 16u)
C1 0 OUT 2.2µ Rser=1
.tran 16u
.lib LT1185.lib
.backanno
.end
